US07279467B2
15.1) 2-ethyl-4-nitro-1,3-benzoxazole
A mixture of 2-amino-3-nitrophenol (1 eq.), triethyl orthopropionate (2 eq.) and p-toluene sulphonic acid (in a catalytic quantity) is stirred at 110° C. until disappearance of the aminophenol is verified by thin layer chromatography (2 hours). After cooling down, the reaction mixture is taken up in toluene followed by evaporating under vacuum then treating with isopropanol. The resulting precipitate is collected by filtration, followed by washing with isopropanol and isopentane, then drying under reduced pressure in order to produce a violet-brown solid.

reactant | 2-amino-3-nitrophenol | 1 eq. | NC1=C(C=CC=C1[N+](=O)[O-])O | C6H6N2O3
reactant | triethyl orthopropionate | 2 eq. | C(CC)(OCC)(OCC)OCC | C9H20O3
reactant | p-toluene sulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | aminophenol | NC1=C(C=CC=C1)O | C6H7NO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-ethyl-4-nitro-1,3-benzoxazole | C(C)C=1OC2=C(N1)C(=CC=C2)[N+](=O)[O-] | C9H8N2O3
